US04246268
A solution of 10.0 g (45 mmoles) of 1-bromo-8-methylnaphthalene in 5 ml of ethyl ether is added gradually to a stirred mixture of 1.2 g (50 mmoles) of magnesium in 30 ml of anhydrous ether. The mixture is stirred at reflux for 1 hour and a solution of 6.0 g (43 mmoles) of 1-acetyl-4-piperidinecarbonitrile in 10 ml of tetrahydrofuran slowly added. The mixture is allowed to stir for 16 hours, an excess of saturated aqueous ammonium chloride solution added and the mixture heated on a steam bath for 3 hours. After cooling, the mixtures is extracted with toluene and the organic phase dried over MgSO4, filtered and concentrated in vacuo. The residue is dissolved in 20 ml of ethanol and made basic with sodium hydroxide and the solution extracted into toluene. Dry hydrogen chloride is bubbled through the organic phase to yield 8-methyl-1-naphthyl 4-piperidyl ketone hydrochloride.

reactant | 1-bromo-8-methylnaphthalene | 45 mmoles, 10.0 g | BrC1=CC=CC2=CC=CC(=C12)C | C11H9Br
reactant | magnesium | 50 mmoles, 1.2 g | [Mg] | Mg
reactant | 1-acetyl-4-piperidinecarbonitrile | 43 mmoles, 6.0 g | C(C)(=O)N1CCC(CC1)C#N | C8H12N2O
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | ethyl ether | 5 ml | C(C)OCC | C4H10O
reactant | ether | 30 ml | CCOCC | C4H10O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 8-methyl-1-naphthyl 4-piperidyl ketone hydrochloride | Cl.N1CCC(CC1)C(=O)C1=CC=CC2=CC=CC(=C12)C | InChI=1S/C17H19NO.ClH/c1-12-4-2-5-13-6-3-7-15(16(12)13)17(19)14-8-10-18-11-9-14;/h2-7,14,18H,8-11H2,1H3;1H
